US08022205B2
4-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-benzonitrile (B-14)
In the same manner as Example 1-B-10, using 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine, and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile as a boronic acid, the desired compound was obtained.

reactant | 4-chloro-2-morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C=2C=NC=CC2 | C15H16ClN5O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | CC1(OB(OC1(C)C)C1=CC=C(C#N)C=C1)C | C13H16BNO2
reactant | boronic acid | B(O)O | BH3O2
product | 4-(2-Morpholin-4-yl-7-pyridin-3-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-benzonitrile | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C=2C=NC=CC2)C2=CC=C(C#N)C=C2 | C22H20N6O
